US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-ethyl-2-hydroxy-1,1-dimethyl-butyl)-1H-imidazol-4-yl]-amide
To a solution of 2-(4-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-2-methyl-propionic acid methyl ester (1 equiv) in tetrahydrofuran at −0° C. is added ethyl lithium (5 equiv., 0.5 M benzene/cyclohexane) dropwise. The reaction is stirred for 30 min., quenched with water, and extracted with methylene chloride. The solvent is dried, concentrated, and purified by silica gel chromatography to afford the title compound: C13 NMR (100 MHz, CDCl3) 9.0, 9.3, 14.0, 18.9, 24.5, 25.2, 27.3, 27.5, 36.0, 43.0, 53.1, 65.9, 102.5, 102.8, 103.0, 107.2, 112.4, 112.6, 112.7, 133.3, 136.3, 138.6, 164.3, 164.5, 169.0, 169.1; MS m/z 465.3 (M+1).

reactant | 2-(4-{2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoylamino}-imidazol-1-yl)-2-methyl-propionic acid methyl ester | 1 equiv | COC(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C21H26F2N4O4
reactant | ethyl lithium | 0.5 M, 5 equiv. | C(C)[Li]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-ethyl-2-hydroxy-1,1-dimethyl-butyl)-1H-imidazol-4-yl]-amide | C(C)C(C(C)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(CC)O | C24H34F2N4O3
